US07109186B2
Compound 859: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-trifluoromethyl-benzyl)-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-N-(4-trifluoromethylbenzyl)-acetamide (0.20 g, 0.56 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.10 g (52% yield) of the title compound as white crystals; mp 145° C. (dec) (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 3.11 (3H, s, NCH3), 3.75 (3H, s, OCH3), 4.17 (2H, s, NCH2), 4.94 (2H, s, NCH2), 7.45 (2H, d, J=8.1 Hz, aromatics), 7.61 (2H, d, J=8.1 Hz, aromatics). Anal. Calcd for C15H15F3N2O4: C, 52.33; H, 4.39; N, 8.13. Found: C, 52.17; H, 4.34; N, 7.98.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-N-(4-trifluoromethylbenzyl)-acetamide | 0.56 mmol, 0.20 g | CC1(OC(C(O1)=CC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)OC)=O)C | C16H16F3NO5
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-trifluoromethyl-benzyl)-amide | 0.10 g, 52% yield | CON(C(=O)C=1CN(C(C1O)=O)C)CC1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O4
